US08222416B2
A solution of Dess-Martin periodinane reagent (3.3 g, 7.8 mmol) in dichloromethane (50 mL) at 25° C. was treated with 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol (1.4 g, 4.1 mmol). The reaction was stirred at 25° C. for 3 h. At this time, the reaction was quenched by the addition of a saturated aqueous sodium bicarbonate solution. The resulting solution was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel column chromatography (20% ethyl acetate/petroleum ether) afforded 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-one as a white solid (1.2 g, 82.1%): 1H NMR (300 MHz, d6-DMSO): δ ppm 8.54 (d, 1H, J=4.5 Hz), 8.27 (d, 2H, J=7.8 Hz), 8.17 (d, 1H, J=7.8 Hz), 7.76-7.66 (m, 3H), 7.58 (s, 1H), 7.42-7.38 (m, 1H), 2.91 (d, 2H, J=6.9 Hz), 2.23-2.18 (m, 1H), 1.01 (s, 3H), 0.99 (s, 3H).

reactant | Dess-Martin periodinane | 7.8 mmol, 3.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol | 4.1 mmol, 1.4 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC(C)C)O | C18H20N2O3S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-one | 1.2 g, 82.1% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC(C)C)=O | C18H18N2O3S
